US07176310B1
21. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 4-fluorophenyl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 4-fluorophenol (17 mg, 0.15 mmol) as the coupling partner. Concentration (no chromatography) yielded 52 mg (79%) of the titled compound. ESI-MS m/z 386 (MH+), 384 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 4-fluorophenol | 0.15 mmol, 17 mg | FC1=CC=C(C=C1)O | C6H5FO
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 4-fluorophenyl ester | 52 mg, 79% | FC1=CC=C(C=C1)OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C19H13F2N3O4
